### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/NatCard): length of a nodup list whose elements come from a set

### PR DESCRIPTION
**Pull request by SnirBroshi**
For a list `l` with `l.Nodup` and a set `s` with `∀ a ∈ l, a ∈ s` we have `l.length ≤ s.encard`,
and similar statements for `Finset`/`Multiset` with `Set.encard`/`Set.ncard`/`ENat.card`/`Nat.card`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/NatCard.lean [hunk 1]
```diff
@@ -224,19 +224,85 @@ theorem eq_top_of_card_le_of_finite [Finite α] {s : Set α} (h : Nat.card α 
...
+theorem card_le_natCard [Finite α] : s.card ≤ Nat.card α := by
+  simp [← Set.ncard_univ, card_le_ncard]
+
+end Finset
+
+namespace Multiset
+
+variable {m : Multiset α} {s : Set α}
+
+theorem ncard_setOf_mem [DecidableEq α] : {a | a ∈ m}.ncard = m.dedup.card := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/SetTheory/Cardinal/NatCard.lean]: `setOf` is `ofPred` now, I think. (4 times)

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by faenuccio** [comment]
thanks

bors d+

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
